US09255090B2
(3-{5-Fluoro-2-[3-(4-fluoro-phenyl)-3-methyl-butyryl]-1,2,3,4-tetrahydro-isoquinolin-8-yl}-4-methoxy-phenyl)-acetic acid (C29H29NO4F2, MW=493.21)
To a solution of 3-(4-fluoro-phenyl)-3-methyl-butyric acid (20 mg, 0.1 mmol, 1.0 eq.) in DCM (1 mL), 1-hydroxybenzotriazole hydrate (HOBt) (14 mg, 0.1 mmol, 1.0 eq.) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (19 mg, 0.1 mmol, 1.0 eq.) were added in sequence. The resulting solution was stirred at r.t. for 2 minutes. Then a solution of [3-(5-fluoro-1,2,3,4-tetrahydro-isoquinolin-8-yl)-4-methoxy-phenyl]-acetic acid ethyl ester (34 mg, 0.1 mmol, 1.0 eq.) and triethylamine (42 μL, 0.3 mmol, 3.0 eq.) in DCM (1 mL) was added and the resulting mixture was stirred at r.t. for 18 hours. The mixture was concentrated in vacuo. The residue was dissolved in DMF (0.8 mL). 1M aq. NaOH (1 mL) was added. The mixture was stirred at r.t. for 3 hours. The solution was carefully neutralized with formic acid (0.5 mL), and purified by prep. HPLC (column: Atlantis, 30×75 mm, 10 um, UV/MS, acidic conditions) and concentrated in vacuo to give the title compound as a white solid.

reactant | 3-(4-fluoro-phenyl)-3-methyl-butyric acid | 0.1 mmol, 20 mg, 1.0 eq. | FC1=CC=C(C=C1)C(CC(=O)O)(C)C | C11H13FO2
reactant | 1-hydroxybenzotriazole hydrate | 0.1 mmol, 14 mg, 1.0 eq. | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.1 mmol, 19 mg, 1.0 eq. | Cl.CN(CCCN=C=NCC)C
reactant | [3-(5-fluoro-1,2,3,4-tetrahydro-isoquinolin-8-yl)-4-methoxy-phenyl]-acetic acid ethyl ester | 0.1 mmol, 34 mg, 1.0 eq. | C(C)OC(CC1=CC(=C(C=C1)OC)C=1C=CC(=C2CCNCC12)F)=O | C20H22FNO3
reactant | triethylamine | 0.3 mmol, 42 μL, 3.0 eq. | C(C)N(CC)CC | C6H15N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (3-{5-Fluoro-2-[3-(4-fluoro-phenyl)-3-methyl-butyryl]-1,2,3,4-tetrahydro-isoquinolin-8-yl}-4-methoxy-phenyl)-acetic acid | FC1=C2CCN(CC2=C(C=C1)C=1C=C(C=CC1OC)CC(=O)O)C(CC(C)(C)C1=CC=C(C=C1)F)=O | C29H29F2NO4
